US07375131B2
d) 5-Bromo-2-ureido-thiophene-3-carboxylic Acid Amide
Sodium carbonate solution (10% aqueous, 30 ml) was added to a solution of 5-bromo-2-[3-(2,2,2-trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic acid amide (1.0 g, 2.44 mmol) in EtOH (10 mL). The resulting reaction mixture was stirred under nitrogen overnight. After one third of the solvent was removed under vacuum, the reaction mixture was filtered. The precipitate was washed with water (3×50 mL) and dried in vacuum to give the above titled compound as a light brown solid (510 mg, 2.16 mmol, 89% yield).

reactant | Sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-[3-(2,2,2-trichloro-ethanoyl)-ureido]-thiophene-3-carboxylic acid amide | 2.44 mmol, 1.0 g | BrC1=CC(=C(S1)NC(=O)NC(C(Cl)(Cl)Cl)=O)C(=O)N | C8H5BrCl3N3O3S
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-Bromo-2-ureido-thiophene-3-carboxylic Acid Amide | 2.16 mmol, 510 mg, 89% yield | BrC1=CC(=C(S1)NC(=O)N)C(=O)N | C6H6BrN3O2S
